US05049671
(±)-cis-4-[2-Amino-6-((8-Aminooctyl)amino)-9H-purin-9-yl)-2-cyclopentene-1-methanol
A solution of (±)-(cis)-4-(2-amino-6-chloro-9H-purin-9-yl)-2-cyclopentene-1-methanol (272 mg, 1.00 mmol) and 1,8-diaminooctane (1.44 g, 10 mmol) in absolute ethanol (15 mL) was refluxed under nitrogen for 1.5 hours. The solution was concentrated, cooled, and the resulting precipitate filtered and crystallised from i-propanol to give title compound as white solid (160 mg, 42%), m.p. 125-127° C.

reactant | (±)-(cis)-4-(2-amino-6-chloro-9H-purin-9-yl)-2-cyclopentene-1-methanol | 1.00 mmol, 272 mg | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)CO)Cl | C11H12ClN5O
reactant | 1,8-diaminooctane | 10 mmol, 1.44 g | NCCCCCCCCN | C8H20N2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | (±)-cis-4-[2-Amino-6-((8-Aminooctyl)amino)-9H-purin-9-yl)-2-cyclopentene-1-methanol | 160 mg, 42% | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)CO)NCCCCCCCCN | C19H31N7O
